US06329381B1
6-Amino-9-benzyl-2-methylaminopurine
6-Amino-9-benzyl-2-chloropurine (200 mg, 0.77 mmol) and 40% methylamine/methanol solution (50 ml) were heated at 120° C. for 20 hours in autoclave. The reaction mixture was condensed in vacuo. To the residue was added 5N aqueous sodium hydroxide and the solution was extracted with chloroform. The organic layer was dried on sodium sulfate, filtered and the solvent in the filtrate was evaporated in vacuo. The residue was purified with silica gel chromatography (2% methanol/chloroform) to give the subject compound (163 mg, yield 83%).

reactant | 6-Amino-9-benzyl-2-chloropurine | 0.77 mmol, 200 mg | NC1=C2N=CN(C2=NC(=N1)Cl)CC1=CC=CC=C1 | C12H10ClN5
reactant | sodium hydroxide | 5N | [OH-].[Na+]
reactant | methylamine methanol | 50 ml | CN.CO
product | 6-Amino-9-benzyl-2-methylaminopurine | 163 mg, yield 83% | NC1=C2N=CN(C2=NC(=N1)NC)CC1=CC=CC=C1 | C13H14N6
